US07700784B2
To 5-(4′-diethoxymethyl-biphenyl-2-yl)-2-(tetrahydropyran-2-yl)-2H-tetrazole (0.408 g; 1.00 mmol) are added 94% ethanol (2.5 mL) and a 2N aqueous solution of hydrochloric acid (0.5 mL; 1.0 mmol). The resulting solution is heated to 45° C. for 3 hours. After the addition of water (about 2 mL) the mixture is allowed to cool down to room temperature and then stirred at 0 to 5° C. for 30 minutes. The resulting suspension is filtered and the solids are washed with a small amount of water, dried in vacuo at 40° C. to afford 2′-(1H-tetrazol-5-yl)biphenyl-4-carbaldehyde as white, crystalline powder.

reactant | 5-(4′-diethoxymethyl-biphenyl-2-yl)-2-(tetrahydropyran-2-yl)-2H-tetrazole | 1.00 mmol, 0.408 g | C(C)OC(C1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C1OCCCC1)OCC | C23H28N4O3
reactant | ethanol | 2.5 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 1.0 mmol, 0.5 mL | Cl | ClH
solvent | water | about 2 mL | O | H2O
product | 2′-(1H-tetrazol-5-yl)biphenyl-4-carbaldehyde | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H10N4O
